US07767675B2
Step 5. 3-(4-Methoxyphenyl)propanal
A solution of dimethyl sulfoxide (5.1 mL) in dichloromethane (10 ml) was added to a stirred solution of oxalyl chloride (3.0 mL, 36 mmol) in dichloromethane (40 ml) at −78° C. over 30 min. Upon completion of the addition, the mixture was stirred at −78° C. for 5 min, followed by addition of a solution of 4-methoxybenzenepropanol (3.0 g, 18 mmol) in dichloromethane (20 ml) at −78° C. over 30 min. The resulting mixture was stirred at −78° C. for 40 min. Next, triethylamine (15 mL, 110 mmol) was added dropwise over 10 min. The resulting mixture was allowed to warm to 0° C. and stirred at this temperature for 1 hour. It was diluted with dichloromethane (30 mL) and quenched with water (15 mL). The organic extracts were separated, washed with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with ethyl acetate in hexanes (gradient: 3 min: 0/100 to 23 min: 20/80) to afford the desired product (1.50 g, 51%).

reactant | dimethyl sulfoxide | 5.1 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 36 mmol, 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxybenzenepropanol | 18 mmol, 3.0 g | COC1=CC=C(C=C1)CCCO | C10H14O2
reactant | triethylamine | 110 mmol, 15 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-(4-Methoxyphenyl)propanal | 1.50 g, 51% | COC1=CC=C(C=C1)CCC=O | C10H12O2
